US05229402
A 8.14 g quantity of 4-trimethylsilyloxy-2-pyrrolidone [Farmaco Edizione Scientifica, 36, 845-855 (1981)] was dissolved in 100 ml of tetrahydrofuran, 7.62 g of N,N'-carbonyldiimidazole was added to the solution, and the mixture was refluxed for 20 hours. With addition of 4.38 g of aniline, the mixture was further refluxed for 7 hours, then cooled and stirred at room temperature for 0.5 hour with addition of 150 ml of 1N hydrochloric acid. The solvent was distilled off in a vacuum, the residue was subjected to silica gel column chromatography to obtain crystals from an eluate of chloroform/methanol=30/1. The crystals were recrystallized from acetone-hexane, giving 7.44 g of 1-phenylcarbamoyl-4-hydroxy-2-pyrrolidinone (yield 72%) having a melting point of 104° to 104.5° C.

reactant | 4-trimethylsilyloxy-2-pyrrolidone | C[Si](OC1CC(NC1)=O)(C)C | C7H15NO2Si
reactant | aniline | 4.38 g | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | 1N, 150 ml | Cl | ClH
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-phenylcarbamoyl-4-hydroxy-2-pyrrolidinone | 7.44 g, yield 72% | C1(=CC=CC=C1)NC(=O)N1C(CC(C1)O)=O | C11H12N2O3
